US09447090B2
To 2.36 g of 2a,3,4,8b-tetrahydronaphtho[1,2-b]azet-2(1H)-one was added 50 ml of a 10% hydrogen chloride/methanol solution, followed by stirring at 90° C. for 6 hours. After leaving to be cooled, the solvent was evaporated under reduced pressure. To the obtained residue were added methanol and diethyl ether, and the insoluble material was collected by filtration and dried to obtain 3.08 g of methyl rac-(1S,2S)-1-amino-1,2,3,4-tetrahydronaphthalene-2-carboxylate hydrochloride.

reactant | 2a,3,4,8b-tetrahydronaphtho[1,2-b]azet-2(1H)-one | 2.36 g | N1C2C(C1=O)CCC1=CC=CC=C12 | C11H11NO
reactant | hydrogen chloride methanol | Cl.CO
product | methyl rac-(1S,2S)-1-amino-1,2,3,4-tetrahydronaphthalene-2-carboxylate hydrochloride | 3.08 g | Cl.NC1C(CCC2=CC=CC=C12)C(=O)OC | InChI=1S/C12H15NO2.ClH/c1-15-12(14)10-7-6-8-4-2-3-5-9(8)11(10)13;/h2-5,10-11H,6-7,13H2,1H3;1H
